US20010027196A1
5-Bromo-4-ethoxy-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, isopropanol and DBU in dioxane. EI-MS m/e (%): 299 (M{81Br}+, 43), 297 (M{79Br}+, 45), 257 ([M—C6H10]+, 98), 255 ([M—C6H10]+, 100), 206 (32), 94 (44), 43 (52).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-ethoxy-6-furan-2-yl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1C=1OC=CC1)N)OCC | C10H10BrN3O2
